Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Demerol / Codeine / Tape / Morphine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
PCP: ___
GI: ___

This is a ___ yo woman with a history of chronic pancreatitis who 
presents with abdominal pain, nausea, vomitting c/w prior 
episodes of pancreatitis. She notes this started about 1 month 
ago, typical symptoms as prior episodes. She does not know what 
causes it, or what might have caused it this time. She also 
notes a 'flip flop' sensation in her mid epigastric area, that 
is new. Her pain is ___, radiating to her back on both sides. 
She denies fevers, dysuria, melena, hematochezia. She notes 
chronic constipation, last bm 4 days ago, which is normal for 
her, she uses fleets enemas prn. She has also noticed a restless 
leg sensation over the past week. She has lost about 5 lbs over 
the last month due to poor po intake but has been able to 
tolerate liquids. She has tried dilaudid 4mg po q4-6 at home 
with minimal relief of her symptoms. 

ROS: Chills for the past month, occasional headaches, 
generalized weakness/lethargy, otherwise extensive 10 point 
review of systems negative.
 
Past Medical History:
PMHx:
1) Recurrent pancreatitis: Started after partial pancreatectomy 
in ___.  Then no recurrent until ___.  Was hospitalized in 
___ for pancreatitis, underwent an ERCP with sphincterotomy and 
stent placement in panc duct.  Further episodes in ___ 
with same ERCP again and stent extension.  In ___, another bout 
of acute pancreatitis, but ERCP this time showed no duct 
stenosis.  
2) Hemolytic anemia: reaction to Keflex, treated with 
splenectomy in ___.
3) s/p ccy in ___
4) s/p appy in ___
5) Asthma:  mild intermittent, uses no meds at baseline
6) hypothyroidism
7) s/p tubal ligation
8) Depression
 
Social History:
___
Family History:
Mother with diabetes, osteoporosis, hypertension, 
hypothyroidism, chronic pain
 
Physical Exam:
VS: T 99.4 HR 71 BP 121/78 RR 20 Sat 99% RA
Gen: Uncomfortable appearing woman in NAD
Eye: extra-occlar movements intact, pupils equal round, reactive 
to light, sclera anicteric, not injected, no exudates
ENT: mucus membranes moist, no ulcerations or exudates
Neck: no thyromegally, JVD: flat
Cardiovascular: regular rate and rhythm, normal s1, s2, no 
murmurs, rubs or gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi
Abd: Soft, tender to palpation with guarding but no rebound in 
the epigastric area and bilateral upper quadrants, non 
distended, no heptosplenomegally, bowel sounds present
Extremities: No cyanosis, clubbing, edema, joint swelling
Neurological: Alert and oriented x3, CN II-XII intact, normal 
attention, sensation normal, asterixis absent, speech fluent, 
Integument: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant
Hematologic: no cervical or supraclavicular LAD
 
Pertinent Results:
___: SBFT/UGI: Normal small bowel. Specifically, no 
small-bowel obstruction.  Small bowel malrotation with 
duodenojejunal flexure seen in the right upper quadrant. Mobile 
cecum. 
  
___: MRCP: 1. Mild intrahepatic and pancreatic ductal 
dilatation, similar to CT appearance from ___, however, 
increased from MRCP ___. Though the changing 
appearance of biliary system is unusual, the dilation of the 
pancreatic and biliary systems without a mass lesion raises the 
possibility of an ampullary stricture. 
2. Small bowel and pancreatic head malrotation. Stable changes 
status post 
distal pancreatectomy. Prompt emptying of the pancreatic duct 
following 
secretin administration. 

___ EUS: 
Findings: Esophagus: Normal limited exam of the esophagus. 
Stomach: Normal limited exam of the stomach. 
Duodenum: Normal limited exam of the duodenum. 

EUS:
findings: EUS was performed using a linear echoendoscope at 7.5 
MHz frequency: The head and uncinate pancreas were imaged from 
the duodenal bulb and the second / third duodenum. The body and 
tail [partially] were imaged from the gastric body and fundus.  

Pancreas parenchyma: The entire pancreas showed the following 
parenchymal changes : lobularity, hyperechoic foci, and 
hyperechoic strands. The pancreas was small in volume [atrophic] 
throughout especially at the body of the pancreas. The head of 
the pancreas could not be fully examined due to patient's 
anatomy. 

Pancreas duct:The pancreas duct measured 4 mm in the head and 2 
mm in the body of the pancreas. The walls of the duct were 
hyperchoic. The duct was regular. Pancreatic parenchymal and 
duct changes taken together are suggestive of moderate severity 
chronic pancreatitis.  

The ampulla was examined. This showed changes c/w prior 
sphincterotomy. No other abnormalities were noted.  

Bile duct: moderate amount of air bubbles were noted in the bile 
duct, obscuring view. The duct in the porta-hepatis was normal. 
 
Impression: Pancreas parenchyma and duct showed changes c/w 
chronic pancreatitis. Ampulla showed post sphincterotomy 
changes, but was otherwise normal. Limited images of bile duct 
and pancreatic duct were normal 

LABS:
___ 05:00PM   GLUCOSE-93 UREA N-14 CREAT-0.8 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-26 ANION GAP-14
___ 05:00PM   estGFR-Using this
___ 05:00PM   ALT(SGPT)-20 AST(SGOT)-29 ALK PHOS-81 
AMYLASE-49 TOT BILI-0.6
___ 05:00PM   LIPASE-47
___ 05:00PM   ALBUMIN-4.8 CALCIUM-9.8 PHOSPHATE-3.3 
MAGNESIUM-2.3
___ 05:00PM   WBC-13.5* RBC-4.23 HGB-13.0 HCT-38.1 MCV-90 
MCH-30.7 MCHC-34.0 RDW-12.8
___ 05:00PM   NEUTS-72.2* ___ MONOS-6.1 EOS-1.7 
BASOS-0.5
___ 05:00PM   PLT COUNT-480*
___ 05:40AM BLOOD WBC-9.8 RBC-3.53* Hgb-10.8* Hct-32.2* 
MCV-91 MCH-30.5 MCHC-33.5 RDW-12.8 Plt ___
___ 05:00AM BLOOD WBC-9.4 RBC-3.41* Hgb-10.4* Hct-31.4* 
MCV-92 MCH-30.4 MCHC-33.1 RDW-13.1 Plt ___
___ 05:30AM BLOOD WBC-8.6 RBC-3.49* Hgb-10.7* Hct-32.1* 
MCV-92 MCH-30.7 MCHC-33.3 RDW-12.7 Plt ___
___ 05:30AM BLOOD WBC-9.6 RBC-3.69* Hgb-11.3* Hct-33.8* 
MCV-92 MCH-30.6 MCHC-33.4 RDW-12.9 Plt ___
___ 05:00AM BLOOD WBC-7.8 RBC-3.43* Hgb-10.5* Hct-31.3* 
MCV-91 MCH-30.7 MCHC-33.7 RDW-13.1 Plt ___
___ 05:19AM BLOOD WBC-9.3 RBC-3.32* Hgb-10.0* Hct-30.5* 
MCV-92 MCH-30.3 MCHC-32.9 RDW-13.0 Plt ___
___ 05:45AM BLOOD WBC-9.2 RBC-3.43* Hgb-10.4* Hct-31.5* 
MCV-92 MCH-30.4 MCHC-33.2 RDW-12.9 Plt ___
___ 05:40AM BLOOD WBC-8.8 RBC-3.44* Hgb-10.4* Hct-32.0* 
MCV-93 MCH-30.1 MCHC-32.5 RDW-13.3 Plt ___
___ 05:40AM BLOOD Glucose-70 UreaN-12 Creat-0.7 Na-142 
K-3.9 Cl-110* HCO3-23 AnGap-13
___ 05:00AM BLOOD Glucose-73 UreaN-8 Creat-0.7 Na-143 K-4.4 
Cl-110* HCO3-26 AnGap-11
___ 05:30AM BLOOD Glucose-116* UreaN-4* Creat-0.8 Na-144 
K-4.3 Cl-107 HCO3-29 AnGap-12
___ 05:30AM BLOOD Glucose-71 UreaN-4* Creat-0.8 Na-142 
K-3.8 Cl-104 HCO3-29 AnGap-13
___ 05:00AM BLOOD Glucose-92 UreaN-4* Creat-0.7 Na-145 
K-4.2 Cl-107 HCO3-30 AnGap-12
___ 06:00AM BLOOD Glucose-81 UreaN-3* Creat-0.8 Na-143 
K-4.0 Cl-108 HCO3-29 AnGap-10
___ 06:00AM BLOOD Glucose-117* UreaN-5* Creat-0.7 Na-141 
K-4.2 Cl-106 HCO3-30 AnGap-9
___ 06:00AM BLOOD Glucose-74 UreaN-6 Creat-0.7 Na-146* 
K-4.5 Cl-108 HCO3-31 AnGap-12
___ 06:37AM BLOOD Glucose-101 UreaN-6 Creat-0.7 Na-144 
K-4.2 Cl-109* HCO3-29 AnGap-10
___ 05:19AM BLOOD Glucose-97 UreaN-9 Creat-0.7 Na-141 K-4.1 
Cl-105 HCO3-30 AnGap-10
___ 05:45AM BLOOD Glucose-92 UreaN-15 Creat-0.6 Na-138 
K-4.1 Cl-105 HCO3-27 AnGap-10
___ 05:40AM BLOOD Glucose-103 UreaN-14 Creat-0.7 Na-141 
K-4.3 Cl-108 HCO3-25 AnGap-12
___ 03:35PM BLOOD ALT-23 AST-29 AlkPhos-81 Amylase-48 
TotBili-0.6
___ 05:00PM BLOOD ALT-20 AST-29 AlkPhos-81 Amylase-49 
TotBili-0.6
___ 06:00AM BLOOD ALT-22 AST-25 AlkPhos-56 TotBili-0.3
___ 05:19AM BLOOD ALT-25 AST-33 AlkPhos-56 TotBili-0.4
___ 03:35PM BLOOD Lipase-47
___ 05:00PM BLOOD Lipase-47
___ 06:00AM BLOOD Lipase-71*
___ 06:37AM BLOOD Lipase-46
___ 05:19AM BLOOD Lipase-33
___ 05:45AM BLOOD Lipase-39
___ 05:00PM BLOOD Triglyc-97
___ 06:37AM BLOOD Triglyc-241*
___ 05:45AM BLOOD Triglyc-216*
___ 05:40AM BLOOD Free T4-0.96
___ 05:00PM BLOOD TSH-5.0*
___ 05:00AM BLOOD tTG-IgA-3
___ 05:00AM BLOOD IgA-___ yo woman with chronic pancreatitis admitted with likely acute 
pancreatitis flare.

1) Acute on chronic pancreatitis: There was no elevation of 
amylase and lipase initially, but her symptoms were consistant 
with her prior symptoms of acute pancreatitis. She had a 
sbft/ugi at the request of her gastroenterologist, Dr. ___, to 
r/o obstruction given h/o malrotation. This showed malrotation 
(known) but no acute functional abnormality. She then had an 
MRCP, which showed both hepatic and common bile duct dilation, 
but similar to prior imaging. She was evaluated by ERCP, but it 
was not thought that this would be helpful. She was treated 
symptomatically with iv dilaudid, ivf, and antiemetics. She was 
offered enteral feeding post-pyloric via dobhoff but declined 
this as she did not feel comfortable with the dobhoff. When 
restarting her oral diet she was recommended to have viokase 
with a ppi to replace pancreatic enzymes. Her pain regimen was 
changed to oral on ___, with addition of liquids. She had 
worsening of pain control with this. It is recommended that when 
she is able to tolerate food she take viokase with meals along 
with ppi or h2 blocker. After discussion of her case with Dr. 
___, her gastroenterologist, she warrants evaluation 
by Dr. ___ for consideration of repair of her 
malrotation, though her pain is not classically obstructive in 
nature, this will be done as an outpatient. She is also 
encouraged to undergo evaluation for spinal cord stimulation to 
help with pain control.  Anti TTG ab was 3 ___ normal range) 
and CRP was 1.8.

Unfortunately, she did not improve with oral diet.  After 
discussion with Dr. ___ on ___, she was initiated on TPN.  
PICC was placed, and TPN was initiated.  She then developed rt. 
UE edema and an u/s was done:

___ ___ F  ___  ___ 
 
Radiology Report UNILAT UP EXT VEINS US RIGHT Study Date of 
___ 10:09 AM 
 
  
___ 11R ___ 10:09 AM 
UNILAT UP EXT VEINS US RIGHT   Clip # ___   
Reason: ___ year old woman with pancreatitis, hx. DVT, has new 
picc l 
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old woman with pancreatitis, hx. DVT, has new picc 
line rt. UE with  
   edema of arm - please eval for rt. UE DVT 
REASON FOR THIS EXAMINATION: 
   ___ year old woman with pancreatitis, hx. DVT, has new picc 
line rt. UE with  
   edema of arm - please eval for rt. UE DVT 

 
 
Provisional Findings Impression: YMf TUE ___ 11:37 AM 
PFI: Small nonocclusive thrombus in the right axillary vein. 

 
Final Report 
RIGHT UPPER EXTREMITY VENOUS ULTRASOUND 
  
INDICATION: ___ woman with pancreatitis, new right PICC 
line placed, 
presenting with new onset of right upper extremity edema. 
  
COMPARISON: Not available at the ___. 
  
FINDINGS: Gray-scale and color Doppler images of the right 
internal jugular, 
subclavian, axillary, brachial, and cephalic veins were 
obtained. There is a 
short segment of a nonocclusive thrombus in the right axillary 
vein. There is 
normal compressibility of the right internal jugular, 
subclavian, brachial, 
and cephalic veins. The right basilic PICC extends into the 
axillary, and 
subclavian vein. The right subclavian vein demonstrates 
decreased respiratory 
variability, which is due to combination of nonocclusive 
thrombus in the 
axillary vein as well as the presence of the intravenous 
catheter. 
  
IMPRESSION: Small nonocclusive thrombus in the right axillary 
vein. 
 
The picc line was removed and anticoagulation was initiated with 
unfractionated heparin and warfarin, transitioned to lovenox and 
warfarin with plans for conitinued outpatient monitoring of INR 
while undergoing lovenox bridge. 

She should be on lovenox until warfarin level therapeutic (___) 
for at least 48 hours.  Duration of anticoagulation to be 
determined by her primary MD, Dr. ___.

She was tolerating po diet (with abdominal pain, controlled by 
oral medications) on discharge and had stable vital signs.
 
Medications on Admission:
fentanyl duragesic patch 100
celexa 6mg daily
levothyroxine 137g daily
dilaudid 4mg po q4 prn pain
trazadone 100mg qhs
omeprazole 40mg daily
viokase 16 tid ac meals
naprosyn 500mg prn
compazine 10mg po prn nausea
 
Discharge Medications:
1. Fentanyl 100 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
2. Levothyroxine 137 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Citalopram 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. Amylase-Lipase-Protease 30,000-8,000- 30,000 unit Tablet Sig: 
Six (6) Tablet PO TID WITH MEALS ().
Disp:*540 Tablet(s)* Refills:*2*
5. Trazodone 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
8. Polyethylene Glycol 3350 100 % Powder Sig: One (1) packet PO 
DAILY (Daily) as needed for constipation.
Disp:*30 packets* Refills:*0*
9. Hydromorphone 4 mg Tablet Sig: One (1) Tablet PO every four 
(4) hours as needed for pain: do not drink alcohol or drive a 
car while taking this medication.
Disp:*100 Tablet(s)* Refills:*0*
10. Senna 8.6 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*
11. Warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
12. Enoxaparin 60 mg/0.6 mL Syringe Sig: One (1) syringe 
injection Subcutaneous Q12H (every 12 hours): until your 
coumadin level is therapeutic (between 2.0 and 3.0) for at least 
48 hours, then stop.
Disp:*20 syringe injection* Refills:*0*
13. Prochlorperazine Maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for nausea.
Disp:*30 Tablet(s)* Refills:*0*
14. lab test  Sig: Five (5) lab tests, daily  once a day: 
___ lab test, daily for five days.  Fax result to Dr. 
___ at ___.
Disp:*5 lab test (blood draws)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic pancreatitis
VTE of rt. UE, catheter associated.

 
Discharge Condition:
Stable vital signs, on TPN, pain controlled with oral 
medications, taking lovenox injections and warfarin, tolerating 
po diet. 

 
Discharge Instructions:
You were admitted with acute pancreatitis in the setting of your 
chronic pancreatitis. You were treated with bowel rest and iv 
fluids and medications.  You did not tolerate restarting an oral 
diet, and you were started on TPN (intravenous feedings).  
Unfortunately, you developed a rt. upper extremitity blood clot 
(VTE), so the picc line was removed.  You will need to have 
lovenox injections twice daily until your coumadin level is 
therapeutic for at least 48 hours.  You will need to have your 
coumadin level checked daily for several days at your primary 
doctor's office.  I have informed them of this, and they are 
expecting you starting on ___ for your first blood 
test for your coumadin level.  You will need to take coumadin 
for at least three months, after which time you can discuss with 
Dr. ___ or not to stop taking coumadin.  As far as 
your abdominal pain is concern, Dr. ___ plans to arrange for 
spinal stimulation, however, you will need to have completed 
your course of anticoagulation with coumadin prior to this. 

Report to the nearest emergency room for any of the following:

shortness of breath
chest pain
lightheadedness
bleeding
blood in stools of vomitus.
 
Followup Instructions:
___